US07175670B2
A) Synthesis of 2-morpholin-4-yl-3,5-dinitropyridine
5 g (24.5 mmol) of 2-chloro-3,5-dinitropyridine, 40 ml of THF and 50 mmol of morpholine were placed in a round-bottomed flask. The mixture was maintained at 60° C. for 15 hours with stirring and was then poured into an ice-water mixture with stirring. The precipitate formed was filtered off by suction and dried under vacuum to constant weight. 6.09 g of yellow powder were obtained.

reactant | 2-chloro-3,5-dinitropyridine | 24.5 mmol, 5 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | morpholine | 50 mmol | N1CCOCC1 | C4H9NO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-morpholin-4-yl-3,5-dinitropyridine | 6.09 g | N1(CCOCC1)C1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C9H10N4O5
